US05091432
Synthesis of 4-[[3-(1,6-dihydro-6 -oxo-9H-purin-9-yl)-1-oxopropyl]amino]-N-[2-(diethylamino)ethyl]benzamide monohydrochloride (AIT-0095)
0.300 g (0.9111 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester (AIT-0081) was placed into a 10 ml round bottom flask with 0.250 g (0.9198 mmol) of procainamide hydrochloride. 2 ml of dimethylsulfoxide was added and the solution was heated to 40° C. for four days. The solution was then poured into 40 ml acetone and was stirred vigorously for 20 minutes. The solid was collected by vacuum filtration and washed with acetone. The solid was placed into a 25 ml round bottom flask with 5 ml ethanol and was stirred for 15 minutes. The solid was collected by vacuum filtration and washed with ethanol and then with ether. This yielded 133 mg of 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]-N-[2-(diethylamino)ethyl]-benzamide monohydrochloride (AIT-0095) as a slightly yellow non-hygroscopic solid. m.p. 210°-213° C. (no decomposition).

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester | 0.9111 mmol, 0.300 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
reactant | procainamide hydrochloride | 0.9198 mmol, 0.250 g | CCN(CC)CCNC(=O)C=1C=CC(=CC1)N.Cl
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 4-[[3-(1,6-dihydro-6 -oxo-9H-purin-9-yl)-1-oxopropyl]amino]-N-[2-(diethylamino)ethyl]benzamide monohydrochloride | Cl.O=C1C=2N=CN(C2N=CN1)CCC(=O)NC1=CC=C(C(=O)NCCN(CC)CC)C=C1 | InChI=1S/C21H27N7O3.ClH/c1-3-27(4-2)12-10-22-20(30)15-5-7-16(8-6-15)26-17(29)9-11-28-14-25-18-19(28)23-13-24-21(18)31;/h5-8,13-14H,3-4,9-12H2,1-2H3,(H,22,30)(H,26,29)(H,23,24,31);1H
